* C:\Users\Jim\Documents\Python SciPy\NETWORK\spice test circuits\example48.asc
R1 1 4 2
R2 1 2 1
R3 4 3 1
R4 2 5 2
V1 1 0 2
I1 4 0 9
H1 2 3 V2 3
G1 0 3 1 4 2
V2 0 5 0
.op
.backanno
.end
