* C:\users\jeff32\My Documents\Solving Electrical Engineering Problems with Python Blog\MNA Test Circuits\test_10\test_10.asc
I1 3 2 2
I2 0 1 -3
I3 4 0 4
V1 2 3 -5
V2 2 0 3
V3 3 4 4
V4 2 1 12
.op
.backanno
.end
