* test_2.asc
R1 9 5 5
R2 5 1 2
R5 6 2 3
R6 2 0 5
R8 8 7 8
R10 10 9 9
R11 6 5 4
R12 2 1 2
R14 7 6 10
R15 11 10 5
V1 9 0 10
V2 1 0 2
V3 7 3 3
V4 7 11 5
I1 4 0 3
I2 2 3 1
I3 10 6 2
I4 8 12 2
R7 8 4 10
R16 3 0 6
R3 12 11 10
R4 4 3 3
.op
.backanno
.end
