* C:\users\jeff32\My Documents\Solving Electrical Engineering Problems with Python Blog\MNA Test Circuits\test_9\test_9.asc
G1 0 1 1 0 0.6
I1 0 1 10
G2 1 0 1 0 0.8
R1 1 0 100Meg
.op
.backanno
.end
