* test_12_v1.asc
C3 2 0 3.7642
I1 0 1 1
C5 3 0 4.015
C7 4 0 3.0182 
L2 1 2 0.7529 
L4 2 3 0.9276 
L6 3 4 0.9142
Rs 1 0 0.5
Rl 4 0 1
C1 1 0 1.5948
;op
* ;.ac list 0.159154943091895
.ac dec 100 0.01 1
.backanno
.end
