* test_13a.asc
L1 2 3 5
I1 1 2 2
L2 0 3 3 
L3 2 1 1 
L4 1 0 1 
I2 0 1 1
I3 3 0 5
I4 2 3 3
;op
* ;.ac list 0.159154943091895
* ;K1 L3 L2 0.5
.ac dec 100 0.1 10
.backanno
.end

