* test_5.asc
V4 1 2 20
I2 3 4 5
F1 5 9 V1 5
E1 12 3 10 1 3
G1 7 10 9 4 2
H1 2 12 V2 2
R3 5 1 10
R4 3 7 1
R9 4 8 9
R10 8 0 10
R13 9 11 7
R14 10 9 10
R2 3 5 5
R7 8 7 6
R11 10 9 5
R12 0 10 9
R16 12 11 10
R8 3 8 5
R17 2 6 8
V1 6 3 0
V2 13 5 0
R18 12 13 4
C1 7 1 2
C2 1 9 5
L1 1 5 3
L2 0 11 8
;op
.ac dec 100 .01 10
.backanno
.end
