
* test_7.asc
R1 16 8 5
R2 8 1 2
R6 2 0 5
R8 11 10 8
R10 23 22 9
R11 9 8 4
R12 2 1 2
R14 10 9 10
R15 24 23 5
V1 22 0 10 AC 10
V2 1 0 2
V3 10 3 3
V4 10 20 5
I1 5 0 3
I2 2 3 1
I3 16 9 2
I4 12 18 2
R7 12 5 10
R16 3 0 6
R3 26 25 10
R4 4 3 3
F1 14 7 V2 2
E1 15 21 2 7 2
H1 4 0 V2 3
G1 11 4 13 12 2
L1 16 23 1 
L2 25 9 4 
V5 20 28 0
V6 23 27 0
L3 22 21 2 
L4 17 11 5 
C1 23 18 2
C2 12 11 2
L5 0 7 1 R
L6 9 2 2 
F2 0 27 V2 2
E2 17 26 10 9 2
H2 27 26 V2 3
G2 16 28 0 5 2
V7 24 25 0
V8 0 6 0
R9 22 16 3
R13 15 0 5
R17 19 13 5
R18 13 6 2
R19 23 19 7
R20 20 19 5
R21 19 18 3
R22 14 13 3
R23 5 4 1
R24 20 14 3
R25 23 28 10
R5 28 0 3
;op
K1 L1 L2 0.707
K2 L3 L4 0.707
* ;.ac list 0.159154943091895
.ac dec 500 0.01 1.0
.backanno
.end


